US05541198
To 3 l of dichloroethane were added 123 g of 3-[1-(2-methylphenyl)-2-imidazolylthio]propanol, 414 g of L-(+)-diethyl tartarate and 120 g of a powder of Molecular Sieve 4A. The mixture was stirred at room temperature for 2 days. Thereto was added 142 g of titanium tetraisopropoxide. The mixture was stirred at room temperature for 30 minutes. Thereto was added 91 g of cumene hydroperoxide. The mixture was stirred at 5° C. for 24 hours. The reaction mixture per se was purified by a silica gel column chromatography (eluant: dichloromethane/methanol=50/1). Recrystallization from methyl ethyl ketone was repeated to obtain 50 g of (S)-(+)-3-[1-(2-methylphenyl)2-imidazolylsulfinyl]propanol.

reactant | dichloroethane | 3 l | ClC(C)Cl | C2H4Cl2
reactant | 3-[1-(2-methylphenyl)-2-imidazolylthio]propanol | 123 g | CC1=C(C=CC=C1)N1C(=NC=C1)SCCCO | C13H16N2OS
reactant | cumene hydroperoxide | 91 g | [O-]O.C1(=CC=CC=C1)C(C)C
catalyst | titanium tetraisopropoxide | 142 g | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
product | (S)-(+)-3-[1-(2-methylphenyl)2-imidazolylsulfinyl]propanol | 50 g | CC1=C(C=CC=C1)N1C(=NC=C1)[S@@](=O)CCCO | C13H16N2O2S
